US04456606
A mixture of diethyl ethoxymethylenemalonate (17.3 g., 0.08 mole) and 3-methyl-1,2,3,4-tetrahydrobenzo[f]quinoline (prepared by reduction of 1-chloro-3-methylbenzo[f]quinoline with rhodium on carbon) (15.8 g., 0.08 mole) was heated to 200° C., then slowly cooled to about 170° C. and maintained at that temperature for about three hours. After cooling to ambient temperature, polyphosphoric acid (100 g.) was added and the mixture was heated at 90° C. with manual stirring. The temperature was permitted to rise gradually to about 110° C. and the mixture was observed to foam. After the foam subsided, the mixture was poured into hot water with stirring. An oil formed which became a yellow solid when cooled. Recrystallization from methanol provided ethyl 1,2-dihydro-3-methyl-7-oxo-3H,5H-naphtho[1,2,3-ij]quinolizine-6-carboxylate as a pale yellow solid, m.p. 178°-180° C.

reactant | diethyl ethoxymethylenemalonate | 0.08 mole, 17.3 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 3-methyl-1,2,3,4-tetrahydrobenzo[f]quinoline | 0.08 mole, 15.8 g | CC1NC=2C=CC3=C(C2CC1)C=CC=C3 | C14H15N
solvent | water | O | H2O
product | ethyl 1,2-dihydro-3-methyl-7-oxo-3H,5H-naphtho[1,2,3-ij]quinolizine-6-carboxylate | CC1N2CC(C(C3=C2C(CC1)=C1C=CC=CC1=C3)=O)C(=O)OCC | C20H21NO3
